US07429635B2
(a) Preparation of Indeno[1,2-b]indole
1-Indanone (30.6 g, 232 mmol), p-tolylhydrazine hydrochloride (37.0 g, 233 mmol) in EtOH (350 mL), and aqueous HCl (12 N, 18 mL) are mixed and the mixture is heated to reflux for 90 min. The mixture is cooled and filtered, and the solid is washed with EtOH (600 mL) and then by 20% aqueous EtOH (400 mL), and finally by hexane (200 mL). The off-white solid is dried under vacuum (36.5 g, 72%).

reactant | 1-Indanone | 232 mmol, 30.6 g | C1(CCC2=CC=CC=C12)=O | C9H8O
reactant | p-tolylhydrazine hydrochloride | 233 mmol, 37.0 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | HCl | 12 N, 18 mL | Cl | ClH
solvent | EtOH | 350 mL | CCO | C2H6O
product | Indeno[1,2-b]indole | C1=C2C=C3C(=NC=4C=CC=CC34)C2=CC=C1 | C15H9N
